US06368608B1
(b) Preparation of α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol
29.9 g (92.5 mmol) of α-trimethylsilylethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol and 100 ml of THF were introduced into a round-bottomed flask and 103.8 ml (114.2 mmol) of a tetrabutylammonium fluoride solution (1.1M in THF) were added dropwise. Stirring was carried out at room temperature for one hour and the reaction mixture was poured into water and extracted with ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with a mixture of ethyl acetate and hexane (1/4). After evaporating the solvents, 18.1 g (79%) of α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol, with a melting point of 56°-57° C., were recovered.

reactant | α-trimethylsilylethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | 92.5 mmol, 29.9 g | C[Si](C#CC1=C(C=CC=2C(CCC(C12)(C)C)(C)C)CO)(C)C | C20H30OSi
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 114.2 mmol, 1.1M, 103.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | C(#C)C(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H22O
